US06225310B1
f) 7-Cyano-3-isopropylamino-6-methyl-4H-thieno[2,3-e]-1,2,4-thiadiazine 1,1-dioxide
A mixture of ethyl 7-cyano-3-isopropylamino-6-methyl-4H-thieno[2,3-e]-1,2,4-thiadiazine-4-carboxylate 1,1-dioxide (0.15 g) and 5 ml of 1 M aqueous sodium hydroxide was stirred at room temperature for 1 h. Then the mixture was filtered and pH was adjusted to 1-2 by dropwise addition of 4M hydrochloric acid. After stirring for 30 min the precipitate was filtered off, rinsed with a small amount of water and dried to give the title compound; m.p. m.p. 235-238° C.; 1H-NMR (DMSO-d6) δ(ppm): 11.35 (s, 1H, NH), 7.55 (br d, 1H, NH), 3.98-3.77 (m, 1H, CH), 2.50 (s, 1H, CH3), 1.15 (d, 6H, CH3).

reactant | ethyl 7-cyano-3-isopropylamino-6-methyl-4H-thieno[2,3-e]-1,2,4-thiadiazine-4-carboxylate 1,1-dioxide | 0.15 g | C(#N)C1=C(SC=2N(C(=NS(C21)(=O)=O)NC(C)C)C(=O)OCC)C | C13H16N4O4S2
reactant | sodium hydroxide | 1 M, 5 ml | [OH-].[Na+]
product | 7-Cyano-3-isopropylamino-6-methyl-4H-thieno[2,3-e]-1,2,4-thiadiazine 1,1-dioxide | C(#N)C1=C(SC=2NC(=NS(C21)(=O)=O)NC(C)C)C | C10H12N4O2S2
